US09340546B2
tert-butyl 4-(1-(3-(2-amino-6-fluoropyrazolo[1,5-a]pyrimidine-3-carboxamido)-5-fluoropyridin-4-yl)piperidine-4-carbonyl)piperazine-1-carboxylate prepared using procedure similar to Example 4 was dissolved in a mixture of DCM (5 mL)/TFA (1 mL, 12.98 mmol) and stirred at RT for 90 min. then concentrated in vacuo. The residue was purified by fractionlynx. Clean fractions were freeze dried to yield 2-amino-6-fluoro-N-(5-fluoro-4-(4-(piperazine-1-carbonyl)piperidin-1-yl)pyridin-3-yl)pyrazolo[1,5-a]pyrimidine-3-carboxamide. MS (ES+) 486.2.

reactant | tert-butyl 4-(1-(3-(2-amino-6-fluoropyrazolo[1,5-a]pyrimidine-3-carboxamido)-5-fluoropyridin-4-yl)piperidine-4-carbonyl)piperazine-1-carboxylate | NC1=NN2C(N=CC(=C2)F)=C1C(=O)NC=1C=NC=C(C1N1CCC(CC1)C(=O)N1CCN(CC1)C(=O)OC(C)(C)C)F | C27H33F2N9O4
reactant | TFA | 12.98 mmol, 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 2-amino-6-fluoro-N-(5-fluoro-4-(4-(piperazine-1-carbonyl)piperidin-1-yl)pyridin-3-yl)pyrazolo[1,5-a]pyrimidine-3-carboxamide | NC1=NN2C(N=CC(=C2)F)=C1C(=O)NC=1C=NC=C(C1N1CCC(CC1)C(=O)N1CCNCC1)F | C22H25F2N9O2
